US07435823B2
Step (b) Preparation of 6-(2-carbamoylpyrdin-4-yloxy)-1-napthoyl chloride
A mixture of 6-(2-carbamoylpyridin-4-yloxy)-1-napthoic acid (Step a, 1.0 g, 3.2 mmol) and SOCl2 (600 μL, 8.1 mmol) in toluene (25 mL, Aldrich) was heated at 110° C. for 7 h. The solution was concentrated under reduced pressure and azeotroped from toluene (3×10 mL) to provide the title compounds as a yellow solid. MS (ESI, pos. ion) m/z: 327.5 (M+1). Mass Calc'd for C17H11ClN2O3: 326.73.

reactant | 6-(2-carbamoylpyridin-4-yloxy)-1-napthoic acid | C(N)(=O)C1=NC=CC(=C1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C17H12N2O4
reactant | SOCl2 | 8.1 mmol, 600 μL | O=S(Cl)Cl | Cl2OS
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(2-carbamoylpyrdin-4-yloxy)-1-napthoyl chloride | C(N)(=O)C1=NC=CC(=C1)OC=1C=C2C=CC=C(C2=CC1)C(=O)Cl | C17H11ClN2O3
